US06855716B2
Synthesis of 4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3-phenyl-2-propene-1-yl)amide
120 mg (0.450 mmol) of 4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid and 71.9 mg (0.540 mmol) of 3-phenyl-2-propene-1-ylamine were dissolved in 10 ml of DMF. 129 mg (0.675 mmol) of WSC hydrochloride was added to the obtained solution under cooling with ice, and they were stirred at room temperature overnight. After the concentration under reduced pressure, the reaction mixture was diluted with ethyl acetate and then washed with 1 N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (dichloromethane/methanol=50/1 to 10/1) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | 0.450 mmol, 120 mg | ClC=1C=C(C=CC1)C1NC(NC(=C1C(=O)O)C)=O | C12H11ClN2O3
reactant | 3-phenyl-2-propene-1-ylamine | 0.540 mmol, 71.9 mg | C1(=CC=CC=C1)C=CCN | C9H11N
reactant | WSC hydrochloride | 0.675 mmol, 129 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(3-chlorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3-phenyl-2-propene-1-yl)amide | C1(=CC=CC=C1)C=CCNC(=O)C=1C(NC(NC1C)=O)C1=CC(=CC=C1)Cl | C21H20ClN3O2
